US07091228B2
To a solution of cis-methyl 2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclohexanecarboxylate (200 mg, 0.59 mmol) in n-butanol (8 mL) was added 2,6-dichloro-1,3-benzothiazole (241 mg, 1.19 mmol), and the resulting reaction mixture was heated at 90° C. overnight. The mixture was evaporated to dryness and the residue was combined with MeOH. Then 1 N NaOH (6.0 mL, 6.0 mmol) was added to the suspension, and the reaction mixture was stirred at 50° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in water. Concentrated aqueous HCl was added to adjust the acidity to pH 1, and the precipitate was collected by filtration, washed with water and MeOH, and dried in a vacuum oven to give trans-2-({4′-[(6-chloro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclohexanecarboxylic acid (45 mg, 15%). LC-MS m/z 491.1 (MH+), ret. time 3.90 min; 1H NMR (400 MHz, DMSO-d6) δ 1.13 (m, 1H), 1.28˜1.51 (m, 3H), 1.78 (m, 1H), 1.93 (m, 1H), 2.09 (m, 1H), 2.68 (m, 1H), 3.63 (m, 1H), 7.35 (m, 1H), 7.60 (m, 1H), 7.80 (m, 4H), 7.90 (d, 1H), 7.96 (m, 1H), 8.05 (d, 2H), 10.75 (s, 1H).

reactant | cis-methyl 2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclohexanecarboxylate | 0.59 mmol, 200 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@@H]1[C@@H](CCCC1)C(=O)OC | C21H23NO3
reactant | 2,6-dichloro-1,3-benzothiazole | 1.19 mmol, 241 mg | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | NaOH | 6.0 mmol, 1 N, 6.0 mL | [OH-].[Na+]
solvent | n-butanol | 8 mL | C(CCC)O | C4H10O
product | trans-2-({4′-[(6-chloro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclohexanecarboxylic acid | 45 mg, 15% | ClC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCCC2)C(=O)O)C=C1 | C27H23ClN2O3S
